US08895566B2
di-tert-Butyldicarbonate (850 mg, 3.90 mmol) was added to a solution of (S)-2-amino-3-(2,4-dichlorophenyl)propan-1-ol (859 mg, 3.90 mmol) in CHCl3 (10 mL). The reaction mixture was stirred at room temperature for 18 hours. LC-MS analysis of the reaction mixture showed no more starting material. The solvent was removed under reduced pressure, and the resulting residue was purified on silica gel (49:49:2 DCM: EtOAc: MeOH) to yield (S)-tert-butyl 1-(2,4-dichlorophenyl)-3-hydroxypropan-2-ylcarbamate as a solid (1.17 g, 94%). MS m/z 320 (M+); 1H NMR (CDCl3): δ (ppm) 7.38 (s, 1H), 7.23-7.17 (m, 2H), 4.84-4.82 (m, 1H), 3.95-3.87 (m, 1H), 3.74-3.68 (m, 1H), 3.63-3.55 (m, 1H), 3.02-2.98 (m, 2H), 2.31 (br s, 1H), 1.39 (s, 9H).

reactant | di-tert-Butyldicarbonate | 3.90 mmol, 850 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-2-amino-3-(2,4-dichlorophenyl)propan-1-ol | 3.90 mmol, 859 mg | N[C@H](CO)CC1=C(C=C(C=C1)Cl)Cl | C9H11Cl2NO
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-tert-butyl 1-(2,4-dichlorophenyl)-3-hydroxypropan-2-ylcarbamate | 1.17 g, 94% | ClC1=C(C=CC(=C1)Cl)C[C@@H](CO)NC(OC(C)(C)C)=O | C14H19Cl2NO3
